US06610518B2
Caesium carbonate (2.62 g) was added to a solution of 4,4-dimethylpentane-1-sulphonic acid amide (720 mg) and 4,6-dichloro-5-(2-methoxyphenoxy)-2-(pyrimidin-2-yl)-pyrimidine (Can. Pat. Appl. 2071193) (1.40 g) in dry N,N-dimethyl formamide (8 ml) and the resulting mixture stirred at 80° C. for 4 hours under nitrogen. The reaction mixture was allowed to cool and then partitioned between ethyl acetate (40 ml) and 2N aqueous hydrochloric acid (20 ml). The organic phase was separated, washed (brine 2×20 ml), dried (Na2SO4) and evaporated under reduced pressure. Column chromatography on silica eluting with a solvent gradient of dichloromethane:methanol 100:0 changing to 99:1 gave crude product which was recrystallised from ethyl acetate:pentane to give N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-4,4-dimethyl-1-pentanesulfonamide as a white solid (1.08 g).

reactant | Caesium carbonate | 2.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,4-dimethylpentane-1-sulphonic acid amide | 720 mg | CC(CCCS(=O)(=O)N)(C)C | C7H17NO2S
reactant | 4,6-dichloro-5-(2-methoxyphenoxy)-2-(pyrimidin-2-yl)-pyrimidine | 1.40 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=NC=CC=N1 | C15H10Cl2N4O2
solvent | N,N-dimethyl formamide | 8 ml | CN(C=O)C | C3H7NO
product | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-4,4-dimethyl-1-pentanesulfonamide | 1.08 g | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCCC(C)(C)C)OC1=C(C=CC=C1)OC | C22H26ClN5O4S
